US07432271B2
A. 4-Azido-1-thiophen-2-yl-butan-1-one
A mixture of 4-chloro-2′-butyrothienone (3.0 g, 15.9 mmol) and sodium azide (2.07 g, 31.8 mmol) in DMF (50 mL) was stirred at 70° C. for 1.5 h. The reaction mixture was then partitioned between ethyl acetate (200 mL) and water (200 mL). The organic layer was washed with water (100 mL), saturated aqueous sodium bicarbonate (100 mL) and brine (100 mL) and dried over sodium sulfate. Removal of the solvent in vacuum provided the title compound (2.58 g, 83% yield). MS m/e 218; HPLC retention time 0.85 min (Method B).

reactant | 4-chloro-2′-butyrothienone | 15.9 mmol, 3.0 g | C1=CSC(=C1)C(=O)CCCCl | C8H9ClOS
reactant | sodium azide | 31.8 mmol, 2.07 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 4-Azido-1-thiophen-2-yl-butan-1-one | 2.58 g, 83% yield | N(=[N+]=[N-])CCCC(=O)C=1SC=CC1 | C8H9N3OS
